**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 4
* SIMULATION TYPE: ac_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/calibration/src/templates/bsim4/nmos/dut.cir

** Start testbenches

********************* dut testbench 23_0 *********************
v_gs_ac_23_0 g_23_0 g_ac_23_0 DC 0 AC 1
e_gs_23_0 g_ac_23_0 0 v_sweep 0 1
v_ds_23_0 d_23_0 0 0.0
v_s_23_0 s_23_0 0 0
v_bs_23_0 b_23_0 0 0.0
x_23_0 d_23_0 g_23_0 s_23_0 b_23_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.2829802535302375
alterparam dut a1 = 0.05402126553923373
alterparam dut a2 = 0.012602953682840923
alterparam dut acde = 1.032169399950194
alterparam dut ags = 0.004677170283231254
alterparam dut cf = 6.366874078905998e-13
alterparam dut cgdl = 9.874558105366722e-11
alterparam dut cgdo = 1.0006042419793892e-10
alterparam dut ckappas = 0.5932941415352184
alterparam dut clc = 8.232072481753776e-08
alterparam dut cle = 0.6358500400880214
alterparam dut dlc = 1*-6.55017324880909e-08
alterparam dut drout = 1.505090465253388
alterparam dut dsub = 0.18591348016839282
alterparam dut dvt0 = 4.241371249839157
alterparam dut dvt0w = 5.7714257194341965
alterparam dut dvt1 = 0.7623664638289739
alterparam dut dvt1w = 8407.623404961723
alterparam dut dvt2 = 0.043711698738005594
alterparam dut dvt2w = 1*-0.019220792184390018
alterparam dut dwg = 7.047796097954477e-08
alterparam dut eta0 = 0.6556210204969639
alterparam dut etab = 1*-0.053300115262231995
alterparam dut k1 = 0.5112410416048583
alterparam dut k2 = 1*-0.009344300254709961
alterparam dut k3 = 46.14382991603375
alterparam dut k3b = 1*-4.986266187290873
alterparam dut keta = 1*-0.0021625221455236904
alterparam dut lint = 1*-1.0864957206502068e-08
alterparam dut ll = 7.643962409501946e-14
alterparam dut moin = 14.106314089168016
alterparam dut ndep = 1.3984245596798648e+17
alterparam dut nfactor = 0.8322835532860009
alterparam dut ngate = 9.646612699988428e+19
alterparam dut noff = 0.9901689419112215
alterparam dut pclm = 1.2021589444674608e-06
alterparam dut pdiblc1 = 5.787505078332663e-06
alterparam dut pdiblc2 = 0.09746477335976629
alterparam dut pdiblcb = 1*-0.013951778270698156
alterparam dut pvag = 1*-0.6575805446127081
alterparam dut rdsw = 946.1889360453606
alterparam dut toxp = 5.082184281324919e-09
alterparam dut u0 = 41.60238575241454
alterparam dut ua = 1*-9.200775584377841e-09
alterparam dut ub = 1.622784352085465e-18
alterparam dut uc = 1*-5.914885649683927e-09
alterparam dut voff = 1*-0.0509119356254559
alterparam dut voffcv = 0.02534929607637293
alterparam dut vsat = 171574.1760831988
alterparam dut vth0 = 0.47660822951515414
alterparam dut w0 = 4.496173875055217e-07
alterparam dut wint = 1*-2.0276758950935778e-08
alterparam dut ww = 1*-2.194745469389403e-15
alterparam dut wwl = 1*-5.648454795313594e-20
alterparam dut lwl = 1*-6.643213509829941e-20
alterparam dut voffl = 1*-1.6691496054788685e-08
alterparam dut xpart = 0.6155841563121996
alterparam dut bin_pvsat = 0.5894512229181399
alterparam dut bin_prdsw = 0.2239714008503019
alterparam dut bin_ppclm = 0.4708017716422279
alterparam dut bin_wketa = 0.6155841563121996
alterparam dut bin_lketa = 0.7285280855853336
alterparam dut bin_pketa = 0.6155841563121996
alterparam dut bin_wk3 = 0.6155841563121996
alterparam dut bin_wk3b = 0.3370583571954646
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_23_0) i(v_ds_23_0) i(v_bs_23_0)

** Write the header of the results file.
echo "vgs,cgg_23_0" > /home/gazi/Desktop/Work/custom_packages/calibration/test/bsim4/results/calibration_2023-06-24_22:49:40/simulation_files/ac_sweep_4.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgg_23_0 = (abs(imag(i(v_s_23_0))) + abs(imag(i(v_ds_23_0))) + abs(imag(i(v_bs_23_0))))/2*pi*10000.0

    echo "$val,$&cgg_23_0" >> /home/gazi/Desktop/Work/custom_packages/calibration/test/bsim4/results/calibration_2023-06-24_22:49:40/simulation_files/ac_sweep_4.csv
end

.endc
********** End of control section **********

.end